US07569579B2
Preparation 23B: [2-((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)ethyl]amine
To 18.13 mL 1M lithium aluminum hydride (18.13 mmol) in diethyl ether at 0° C. was added ((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl)cyclopropyl)acetonitrile (5.2 g, 18.13 mmol), accessed via the method of Preparation 22B, dissolved in 20 mL diethyl ether. After complete addition, the reaction mixture was stirred at 0° C. for 3 h. The reaction mixture was diluted with 400 mL diethyl ether and quenched with successive addition of 0.6 mL water, 0.6 mL 15% NaOH, and 3.0 mL water. The reaction mixture was filtered through a pad of celite and the filtrate was concentrated to give the title product (5.1 g, 18.13 mmol 100%) as a clear oil. 1H NMR (400 MHz, DMSO-d6) δ 7.29-7.14 (m, 10H), 4.29-4.16 (m, 2H), 3.04-2.99 (m, 1H), 2.91-2.86 (m, 1H), 2.39-2.27 (m, 2H), 1.88-1.83 (m, 1H), 1.28-1.19 (m, 2H), 0.84-0.81 (m, 1H), 0.73-0.71 (m, 1H).

reactant | lithium aluminum hydride | 18.13 mmol, 1M, 18.13 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl)cyclopropyl)acetonitrile | 18.13 mmol, 5.2 g | C1(=CC=CC=C1)[C@@]1([C@@H](C1)COCC1=CC=CC=C1)CC#N | C19H19NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
product | [2-((1R,2R)-1-phenyl-2-{[(phenylmethyl)oxy]methyl}cyclopropyl)ethyl]amine | 18.13 mmol, 5.1 g, 100% | C1(=CC=CC=C1)[C@@]1([C@@H](C1)COCC1=CC=CC=C1)CCN | C19H23NO
